US04500526
7-[(Z)-2-(2-Aminothiazol-4-yl)-2-(1-carboxycyclobut-1-oxyimino)-acetamido]-3-(2-amino-5-thiazolo[4,5-c]pyridinio)methyl-3-cephem-4-carboxylate (Ik)
A mixture of benzhydryl 7-[(Z)-2-(1-t-butoxycarbonylcyclobut-1-oxyimino)-2-(2-tritylaminothiazol-4-yl)-acetamido]-3-iodomethyl-3-cephem-4-carboxylate [VIIe'] (643 mg, 0.6 mmole) and 2-aminothiazolo[4,5-c]pyridine (100 mg, 0.67 mmole) in 3 ml of dry DMSO was stirred at room temperature for an hour. The reaction mixture was diluted with ether (50 ml) to separate a precipitate, which was triturated with ether (50 ml). The resulting precipitate was dissolved in 30 ml of methylene chloride. After filtration, the filtrate was evaporated and the residue was triturated with isopropyl ether to give 622 mg of the crude blocked quaternary salt as a brown powder. A mixture of the crude solid (450 mg, 0.37 mmole), anisole (0.5 ml), trifluoroacetic acid (5 ml), and water (0.3 ml) was stirred at room temperature for 1.25 hours and concentrated under reduced pressure. The residue was triturated with isopropyl ether (70 ml), and the precipitate was isolated by filtration to give 330 mg of crude final product as a yellow powder, which was dissolved in a mixture of 85% formic acid (1 ml) and concentrated hydrochloric acid (0.05 ml). The solution was allowed to stand at room temperature for 20 minutes and adsorbed on a column of HP-20 resin (40 ml). It was eluted with water (150 ml), 30% aqueous methanol (150 ml) and 50% aqueous methanol (300 ml). Fractions containig the desired product were combined, concentrated and lyophilized to give 167 mg of powder, which was found to be a mixture of the Δ2 and Δ3 isomers by NMR and HPLC. It was further purified by column chromatography using the packing of the PrepPAK-500/C18 (Waters) (20 ml) and the eluate with water (400 ml) was collected in 10 ml fractions, which were monitored by HPLC. The desired fractions were combined, concentrated and lyophilized to afford 58 mg (20%) of Ik as a pale yellow amorphous powder. Mp >150° C. (dec.). Estimated purity 80% (by HPLC).

reactant | benzhydryl 7-[(Z)-2-(1-t-butoxycarbonylcyclobut-1-oxyimino)-2-(2-tritylaminothiazol-4-yl)-acetamido]-3-iodomethyl-3-cephem-4-carboxylate | C(C)(C)(C)OC(=O)C1(CCC1)O\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C54H50IN5O7S2
reactant | 2-aminothiazolo[4,5-c]pyridine | 0.67 mmole, 100 mg | NC=1SC2=C(C=NC=C2)N1 | C6H5N3S
reactant | anisole | 0.5 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | formic acid | 1 ml | C(=O)O | CH2O2
solvent | hydrochloric acid | 0.05 ml | Cl | ClH
solvent | water | 0.3 ml | O | H2O
product | 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-(1-carboxycyclobut-1-oxyimino)-acetamido]-3-(2-amino-5-thiazolo[4,5-c]pyridinio)methyl-3-cephem-4-carboxylate | 167 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC3=C(C=C2)SC(=N3)N)C(=O)[O-])C1=O)=N/OC1(CCC1)C(=O)O | C24H22N8O7S3
